US07776910B2
Trifluoroacetic acid (1 mL) was added to a solution of 3-[4-(3-ethylsulfanyl-benzenesulfonyl)-2-methoxy-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (60 mg, 0.1256 mmol) in DCM (3 mL), and the mixture was stirred at room temperature for 2 hours. The solvent was evaporated under reduced pressure and the residue was partitioned between NaOH (2 M) and DCM. The organic layer was separated and washed with water, dried over Na2SO4, and evaporated under reduced pressure, affording 3-[4-(3-ethylsulfanyl-benzenesulfonyl)-2-methoxy-phenyl]-pyrrolidine, which was transformed in the corresponding hydrochloride (white foam, 53 mg) by addition of a small excess of HCl in 1,4-dioxane. MS (M+H)=378.

reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-[4-(3-ethylsulfanyl-benzenesulfonyl)-2-methoxy-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.1256 mmol, 60 mg | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)SCC)OC | C24H31NO5S2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-[4-(3-ethylsulfanyl-benzenesulfonyl)-2-methoxy-phenyl]-pyrrolidine | C(C)SC=1C=C(C=CC1)S(=O)(=O)C1=CC(=C(C=C1)C1CNCC1)OC | C19H23NO3S2
